US07498353B2
Sodium hydride (120 mg, 2.9 mmol) was added slowly to isopropyl alcohol (15 mL) at 0° C. Once the evolution of hydrogen ceased 2-(3-(2,6-dichlorophenyl)isoxazol-5-yl)pyridin-4-amine hydrochloride (200 mg, 0.58 mmol) and paraformaldehyde (147 mg, 1.64 mmol) added. The resulting mixture was stirred at room temperature for 5 h and hydrolyzed with ice-cooled water and extracted with ethyl acetate. The organic extracts were washed with water, then dried over anhydrous sodium sulfate, filtered and concentrated under reduced pressure to yield 2-(3-(2,6-dichlorophenyl)isoxazol-5-yl)-N-(isopropoxymethyl)pyridin-4-amine (269 mg). The product was carried forward without further purification. 1H NMR (CDCl3): 8.38 (d, 1H), 7.44 (m, 1H), 7.35 (m, 1H), 7.00 (s, 1H), 6.70 (m, 1H), 4.80 (d, 2H), 3.90 (m, 1H), 1.22 ppm (d, 6H).

reactant | Sodium hydride | 2.9 mmol, 120 mg | [H-].[Na+]
reactant | hydrogen | [H][H] | H2
reactant | 2-(3-(2,6-dichlorophenyl)isoxazol-5-yl)pyridin-4-amine hydrochloride | 0.58 mmol, 200 mg | Cl.ClC1=C(C(=CC=C1)Cl)C1=NOC(=C1)C1=NC=CC(=C1)N
reactant | paraformaldehyde | 1.64 mmol, 147 mg | C=O | CH2O
reactant | isopropyl alcohol | 15 mL | C(C)(C)O | C3H8O
solvent | water | O | H2O
product | 2-(3-(2,6-dichlorophenyl)isoxazol-5-yl)-N-(isopropoxymethyl)pyridin-4-amine | 269 mg | ClC1=C(C(=CC=C1)Cl)C1=NOC(=C1)C1=NC=CC(=C1)NCOC(C)C | C18H17Cl2N3O2
